US08604211B2
Preparation of S-methyl methyl(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)carbamothioate (Compound 55)
4-Dimethylaminopyridine (81 mg, 0.66 mmol, 1.5 equiv) and methyl chlorothiolformate (50 μL, 0.57 mmol, 1.3 equiv) were sequentially added to a stirred suspension of N-methyl-5-(pyridin-3-yl)-1,3,4-thiadiazol-2-amine (85 mg, 0.44 mmol, 1.0 equiv) in dichloroethane (3.4 mL) at 23° C. The resulting solution was heated to 75° C. and stirred for 72 h. The cooled reaction mixture was directly subjected to silica gel column chromatography (55% ethyl acetate in hexane spiked with 5% triethylamine) to afford the title compound as an off-white powder (100 mg, 83%): mp 192-194° C.; IR (KBr thin film) 2931 (w), 1727 (w), 1634 (s), 1570 (w) cm−1; 1H NMR (300 MHz, CDCl3) δ 9.13 (d, J=2 Hz, 1H), 8.70 (dd, J=5, 2 Hz, 1H), 8.28 (dt, J=8, 2 Hz, 1H), 7.43 (dd, J=8, 5 Hz, 1H), 3.86 (s, 3H), 2.53 (s, 3H); ESIMS m/z 267 ([M+H]+).

reactant | methyl chlorothiolformate | 0.57 mmol, 50 μL, 1.3 equiv | ClC1=C(SC=C1)C(=O)OC | C6H5ClO2S
reactant | N-methyl-5-(pyridin-3-yl)-1,3,4-thiadiazol-2-amine | 0.44 mmol, 85 mg, 1.0 equiv | CNC=1SC(=NN1)C=1C=NC=CC1 | C8H8N4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
catalyst | 4-Dimethylaminopyridine | 0.66 mmol, 81 mg, 1.5 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloroethane | 3.4 mL | ClC(C)Cl | C2H4Cl2
solvent | hexane | CCCCCC | C6H14
product | S-methyl methyl(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)carbamothioate | 100 mg, 83% | CN(C(SC)=O)C=1SC(=NN1)C=1C=NC=CC1 | C10H10N4OS2
